US05814653
6-(cyclopentanoyl)amino-3-(dimethyl)amino-1,2,3,4-tetrahydro-9H-carbazole
Beginning with 9.2 mg (0.040 mMol) 6-amino-3-(dimethyl)amino-1,2,3,4-tetrahydro-9H-carbazole and 11.6 mg (0.101 mMol) cyclopentanecarboxylic acid, 7.5 mg (53%) of the title compound were recovered as a light beige solid.

reactant | 6-amino-3-(dimethyl)amino-1,2,3,4-tetrahydro-9H-carbazole | 0.040 mMol, 9.2 mg | NC=1C=C2C=3CC(CCC3NC2=CC1)N(C)C | C14H19N3
reactant | cyclopentanecarboxylic acid | 0.101 mMol, 11.6 mg | C1(CCCC1)C(=O)O | C6H10O2
product | 6-(cyclopentanoyl)amino-3-(dimethyl)amino-1,2,3,4-tetrahydro-9H-carbazole | 7.5 mg, 53% | C1(CCCC1)C(=O)NC=1C=C2C=3CC(CCC3NC2=CC1)N(C)C | C20H27N3O
